US05780437
Ethyl 2-methyl-2-(4-nitrophenyl)propionate
A suspension of 924 (23 mmol) of sodium hydride (60% in oil) in 21 mL of dry N,N-dimethylformamide was stirred under nitrogen in an ice bath as a solution of 4.68 g (21 mmol) of ethyl (+/-)-2-(4-nitrophenyl)propionate in 20.5 mL of dry N,N-dimethylformamide was added gradually over about 10 minutes. An intense violet color developed during the addition. The mixture was then allowed to warm to room temperature. After about 1 hour, the mixture was again cooled in an ice bath as a solution of 1.44 mL (3.28 g; 23 mmol) of methyl iodide in 5 mL of dry N,N-dimethylformamide was added dropwise by syringe over about 10 minutes, while maintaining the internal temperature at 10°-15° C. The mixture was allowed to warm to room temperature, and the color changed to brown. After 1 hour, an additional 187 mL (426 mg, 3 mmol) of jodomethane was added. By the next day, the mixture consisted of a suspension of some grayish solid in a golden liquid. It was stirred vigorously and quenched by gradual addition of 10 mL of 5% aqueous potassium bisulfate solution. The mixture was partitioned between 400 mL of diethyl ether and 400 mL of water. The organic layer was washed with an additonal 3×400 mL of water and then with 50 mL of saturated aqueous sodium chloride solution. The organic phase was then dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography of the residue on silica gel (elution with 19:1 hexane-ethyl acetete) yielded 4.31 g (87%) of an oil; homogeneous by TLC in 9:1 hexane-ethyl acetete. 400 MHz 1H NMR (CDCl3) was consistent with the assigned structure.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl (+/-)-2-(4-nitrophenyl)propionate | 21 mmol, 4.68 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC)C | C11H13NO4
reactant | methyl iodide | 23 mmol, 1.44 mL, 3.28 g | CI | CH3I
solvent | N,N-dimethylformamide | 21 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-methyl-2-(4-nitrophenyl)propionate | 4.31 g, 87% | CC(C(=O)OCC)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO4
